US07977351B2
3-(1-Ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one
A solution of 3-(6-Chloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one (50 mg, 0.15 mmol) in 8 ml ethanol is treated with 50 mg of 5% Pd/C and ammonium formate (500 mg). The reaction mixture is stirred for 24 h at room temperature. The reaction mixture is concentrated and is then loaded onto silica gel and purified using 5% MeOH-EtOAc. The product containing fractions are concentrated to give the title compound (18 mg, 40%).

reactant | 3-(6-Chloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 0.15 mmol, 50 mg | ClC1=CC2=C(C=N1)C(OC2CC)=C2C(NC1=CC=C(C=C21)F)=O | C17H12ClFN2O2
reactant | ammonium formate | 500 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-(1-Ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 18 mg, 40% | C(C)C1OC(C=2C=NC=CC21)=C2C(NC1=CC=C(C=C21)F)=O | C17H13FN2O2
